US05585394
A) 5-Ethoxy-1,3-dihydro-1-[2-methoxy-4-phenoxycarbonylaminobenzenesulfonyl]-3-cyclohexyl-2H-benzimidazol-2-one
0.29 g of NaOH pellets in 2 ml of water was added at 5° C., with stirring, to a solution of 1.1 g of 5-ethoxy-1,3-dihydro-1-(2-methoxy-4-aminobenzenesulfonyl)-3-cyclo-hexyl-2H-benzimidazol-2-one, obtained in Example 5 step B), in 25 ml of THF. 1 ml of phenyl chloroformate was then added with continued stirring. The reaction mixture was then stirred for 5 hours, the temperature being allowed to rise to 20° C. The mixture was then concentrated under vacuum, the residue was taken up with water, extracted with ether and washed with water and the organic phase was dried over sodium sulfate and concentrated under vacuum. 1 g of the expected product was obtained by crystallization from iso ether. M.p.=197° C.

reactant | NaOH | 0.29 g | [OH-].[Na+]
reactant | 5-ethoxy-1,3-dihydro-1-(2-methoxy-4-aminobenzenesulfonyl)-3-cyclo-hexyl-2H-benzimidazol-2-one | 1.1 g | C(C)OC1=CC2=C(N(C(N2C2CCCCC2)=O)S(=O)(=O)C2=C(C=C(C=C2)N)OC)C=C1 | C22H27N3O5S
reactant | phenyl chloroformate | 1 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | water | 2 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-Ethoxy-1,3-dihydro-1-[2-methoxy-4-phenoxycarbonylaminobenzenesulfonyl]-3-cyclohexyl-2H-benzimidazol-2-one | 1 g | C(C)OC1=CC2=C(N(C(N2C2CCCCC2)=O)S(=O)(=O)C2=C(C=C(C=C2)NC(=O)OC2=CC=CC=C2)OC)C=C1 | C29H31N3O7S
